US06962914B2
2-(4-Chloro-2-pyridinyl)-1-(4-methoxyphenyl)ethanone in methanol (200 mL) was treated with hydroxylamine hydrochloride (27.2 g, 392 mmol) and a sodium hydroxide solution (15.7 g, 392 mmol in 50 mL of water) as described in Example 12 to give 2-(4-chloro-2-pyridinyl)-1-(4-methoxyphenyl)ethanone oxime (11.8 g) as a white solid. 1H NMR (CDCl3): δ 8.47 (d, 1H), 7.72 (d, 2H), 7.36 (d, 1H), 7.19 (dd, 1H), 6.91 (d, 2H), 4.43 (s, 2H), 3.84 (s, 3H); MS m/z 277 (M+1).

reactant | 2-(4-Chloro-2-pyridinyl)-1-(4-methoxyphenyl)ethanone | ClC1=CC(=NC=C1)CC(=O)C1=CC=C(C=C1)OC | C14H12ClNO2
reactant | hydroxylamine hydrochloride | 392 mmol, 27.2 g | Cl.NO
reactant | sodium hydroxide | 392 mmol, 50 mL, 15.7 g | [OH-].[Na+]
solvent | methanol | 200 mL | CO | CH4O
product | 2-(4-chloro-2-pyridinyl)-1-(4-methoxyphenyl)ethanone oxime | 11.8 g | ClC1=CC(=NC=C1)CC(=NO)C1=CC=C(C=C1)OC | C14H13ClN2O2
